US07829580B2
(a) (E)-4-(t-Butyldimethylsilyloxy)-3-[(ethoxycarbonyl)methylidene]-1-(triphenylmethyl)piperidine
To a solution of (E)-3-[(ethoxycarbonyl)methylidene]-1-(triphenylmethyl)piperidin-4-ol (14.97 g) in N,N-dimethylformamide (130 ml) were added successively t-butyldimethylsilyl chloride (6.86 g), 1H-imidazole (3.34 g) and 4-dimethylaminopyridine (0.43 g) under ice-cooling, and the resulting mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:19) as the eluent to afford the title compound (16.38 g, yield: 86%) as a colourless amorphous solid.

reactant | (E)-3-[(ethoxycarbonyl)methylidene]-1-(triphenylmethyl)piperidin-4-ol | 14.97 g | C(C)OC(=O)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29NO3
reactant | t-butyldimethylsilyl chloride | 6.86 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1H-imidazole | 3.34 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4-(t-Butyldimethylsilyloxy)-3-[(ethoxycarbonyl)methylidene]-1-(triphenylmethyl)piperidine | 16.38 g, yield: 86% | [Si](C)(C)(C(C)(C)C)OC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C(=O)OCC | C34H43NO3Si
